US04036965
To the solution of 28.3 g of 5-aminopyridine-2-carboxylic acid methyl ester in 80 ml of 20% sulfuric acid, cooled to -4°, the solution of 14.31 g of sodium nitrite in 30 ml of water is added dropwise while stirring and maintaining the temperature below 0°. Thereafter the mixture is stirred for 15 minutes below 0° and the mixture of 28 g of potassium thiocyanate and 8 g of cuprous thiocyanate is added portionwise to said solution. Each addition causes evolution of gas and a black oil to separate. With continued stirring the oil again dissolves and the solution is stirred for 3 hours. It is extracted with methylene chloride, the extract filtered and evaporated, to yield the 5-thiocyanatopyridine-2-carboxylic acid methyl ester.

reactant | 5-aminopyridine-2-carboxylic acid methyl ester | 28.3 g | COC(=O)C1=NC=C(C=C1)N | C7H8N2O2
reactant | sodium nitrite | 14.31 g | N(=O)[O-].[Na+]
reactant | potassium thiocyanate | 28 g | [S-]C#N.[K+]
solvent | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 30 ml | O | H2O
product | 5-thiocyanatopyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)SC#N | C8H6N2O2S
